US06881743B2
(d) 5-Bromo-2-hydroxy-nicotinic acid
To a suspension of 5.0 g (35.9 mmol) of 2-hydroxy-nicotinic acid in 30 ml acetic acid was added dropwise 7.5 g (46.7 mmol) bromine. The mixture was maintained at 70-80° C. overnight. The mixture was cooled and the acetic acid was removed under reduced pressure. Water (100 ml) was added and the product was filtered and washed with water (3×100 ml). The solid was dried in a vacuum oven at 65° C. for 48 hours to provide 6.1 g (78% yield) of the title compound. MS: m/z (APCI, AP+) 219.0 [M.]+. CHN Analysis: Calcd: C, 33.06; H, 1.85; N, 6.42. Found: C, 32.91; H, 1.78; N, 6.23.

reactant | 2-hydroxy-nicotinic acid | 35.9 mmol, 5.0 g | OC1=C(C(=O)O)C=CC=N1 | C6H5NO3
reactant | bromine | 46.7 mmol, 7.5 g | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-2-hydroxy-nicotinic acid | 6.1 g, 78% yield | BrC=1C=NC(=C(C(=O)O)C1)O | C6H4BrNO3
